US08487108B2
Step 6. benzyl 1-(methylamino)-3-(1-methylcyclohexyl)propan-2-ylcarbamate
A mixture of 2-(benzyloxycarbonylamino)-3-(1-methylcyclohexyl)propyl methanesulfonate in 16 mL of THF, and 10 mL of 33% wt. methylamine in EtOH was heated at 70° C. for 3 h. After cooling to rt, the reaction mixture was evaporated under reduced pressure. The crude benzyl 1-(methylamino)-3-(1-methylcyclohexyl)propan-2-ylcarbamate was used directly in the next step without further purification. MS ESI +ve m/z 319 (M+H).

reactant | 2-(benzyloxycarbonylamino)-3-(1-methylcyclohexyl)propyl methanesulfonate | CS(=O)(=O)OCC(CC1(CCCCC1)C)NC(=O)OCC1=CC=CC=C1 | C19H29NO5S
reactant | methylamine | CN | CH5N
solvent | THF | 16 mL | C1CCOC1 | C4H8O
solvent | EtOH | CCO | C2H6O
product | benzyl 1-(methylamino)-3-(1-methylcyclohexyl)propan-2-ylcarbamate | CNCC(CC1(CCCCC1)C)NC(OCC1=CC=CC=C1)=O | C19H30N2O2
